US04889855
A solution of 0,7 g (3,3 mmol) 1-amino-5-cyano-2-nitronaphthalene in a mixture of 75 ml ethanol and 75 ml ethyl acetate was hydrogenated at atm. pressure by using ca. 1 g Ra-Ni as a catalyst. The reaction mixture was filtered and evaporated in vacuo to give 1,2-diamino-5-cyanonaphthalene as yellow crystals. IR (KBr): 2220 cm-1 (nitrile function).

reactant | 1-amino-5-cyano-2-nitronaphthalene | 3,3 mmol, 0,7 g | NC1=C(C=CC2=C(C=CC=C12)C#N)[N+](=O)[O-] | C11H7N3O2
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
catalyst | Ra-Ni | ca. 1 g | [Ni] | Ni
product | 1,2-diamino-5-cyanonaphthalene | NC1=C(C=CC2=C(C=CC=C12)C#N)N | C11H9N3
